US04931577
More precisely, 9.3 g of mercurobutol are taken which are dissolved in 50 ml of hot denatured alcohol, in the presence of NaCl. 2 g of potash are carefully added. A thick white precipitate is formed. 4.4 ml of allyl bromide are added in 21 ml of denatured alcohol and the product is mixed with the precipitate which becomes more fluid. The product is heated for two hours at the boiling temperature of the alcohol, then filtered hot. 9.43 g of 2-chloromercuri 4-tertiobutyl phenol allyl-ether are obtained, with a yield of 92%. This product is pure, as may be checked by thin layer chromatography. Its melting temperature is 110° C. It is in the form of a white, water-insoluble powder.

reactant | mercurobutol | 9.3 g | CC(C)(C)C1=CC(=C(C=C1)O)[Hg]Cl
reactant | potash | 2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 4.4 ml | C(C=C)Br | C3H5Br
solvent | NaCl | [Na+].[Cl-]
product | phenol allyl-ether | 9.43 g, yield of 92% | C(C=C)OC1=CC=CC=C1 | C9H10O
